US04002755
In the next place, a solution of 0.5 g of the above-mentioned 5-chloro-2-(3-methyl-5-bromo-4H-1,2,4-triazol-4-yl)benzophenone in 20 ml of dimethylsulfoxide was heated, with stirring, at about 180° C for 10 hours, during which ammonia gas was continuously passed into the reaction mixture. After cooling, the reaction mixture was poured into ice-water and the resulting crystals were filtered, washed with water and dried. The crystals thus obtained was dissolved in chloroform and chromatographed on silica gel using chloroform as an eluent. The product thus separated was recrystallized from isopropyl ether to give 1-methyl-5-phenyl-7-chloro-s-triazolo[4,3-a]quinazoline, m.p. 325° - 327° C.

reactant | 5-chloro-2-(3-methyl-5-bromo-4H-1,2,4-triazol-4-yl)benzophenone | 0.5 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1Br)C | C16H11BrClN3O
reactant | ammonia | N | H3N
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-methyl-5-phenyl-7-chloro-s-triazolo[4,3-a]quinazoline | CC1=NN=C2N1C1=CC=C(C=C1C(=N2)C2=CC=CC=C2)Cl | C16H11ClN4
